### PR TITLE
[Merged by Bors] - feat: Zagier's "one-sentence proof" of Fermat's theorem on sums of two squares

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Zagier.lean [hunk 1]
```diff
@@ -0,0 +1,288 @@
...
+Copyright (c) 2023 Jeremy Tan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jeremy Tan
+-/
+import Mathlib.GroupTheory.PGroup
+
+/-!
+# Zagier's "one-sentence proof" of Fermat's theorem on sums of two squares
+
+"The involution on a finite set `S = {(x, y, z) : ℕ × ℕ × ℕ | x ^ 2 + 4 * y * z = p}` defined by
```
Comment (mo271) [inline Mathlib/NumberTheory/Zagier.lean:11]:
```suggestion
"The involution on the finite set `S = {(x, y, z) : ℕ × ℕ × ℕ | x ^ 2 + 4 * y * z = p}` defined by
```
we might as well cite verbatim, see https://people.mpim-bonn.mpg.de/zagier/files/doi/10.2307/2323918/fulltext.pdf

File: Mathlib/NumberTheory/Zagier.lean [hunk 2]
```diff
@@ -0,0 +1,288 @@
...
+    rw [← pow_eq_iterate, ← hk, pow_mul]⟩
+  mul_left_inv := fun ⟨g, hg⟩ => by
+    simp only [ge_iff_le, mk_mul_mk]
+    congr
+    rw [← pow_eq_iterate, ← pow_succ',
+      Nat.sub_add_cancel (one_le_two.trans (Nat.Prime.two_le hp.out))]
+    rw [mem_powers_iff] at hg
+    obtain ⟨k, hk⟩ := hg
+    rw [← hk, ← pow_mul, mul_comm, pow_mul, pow_eq_iterate f, hf, pow_eq_iterate, iterate_id]
+    rfl
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Zagier.lean:107]: I feel like we ought to have this somewhere as the result on arbitrary monoids, that `powers x` is a group if `orderOf x = p` is not zero.

File: Mathlib/NumberTheory/Zagier.lean [hunk 3]
```diff
@@ -0,0 +1,288 @@
...
+
+instance : MulAction (powers f) α where
+  one_smul _ := rfl
+  mul_smul _ _ _ := rfl
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Zagier.lean:111]: Doesn't `#synth MulAction (powers f) α` already find this?

File: Mathlib/NumberTheory/Zagier.lean [hunk 4]
```diff
@@ -0,0 +1,288 @@
...
+open Finset Function Submonoid
+
+variable (k : ℕ) [hk : Fact (4 * k + 1).Prime]
+
+/-- The obvious involution `(x, y, z) ↦ (x, z, y)`. Its fixed points correspond to representations
+of `4 * k + 1` as a sum of two squares. -/
+def obvInvo : Function.End (zagierSubtype k) := fun ⟨⟨x, y, z⟩, h⟩ => ⟨⟨x, z, y⟩, by
+  unfold zagierSet at *
+  simp_all
+  linarith [h]⟩
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Zagier.lean:144]: You should add the lemma that says `↑(obvInvo p) = (p.1, p.2.2, p.2.1)`

File: Mathlib/NumberTheory/Zagier.lean [hunk 5]
```diff
@@ -0,0 +1,288 @@
...
+    zify [less, more.le] at h ⊢
+    ring_nf
+    linarith [h]
+  · push_neg at less more
+    zify [less, more] at h ⊢
+    ring_nf
+    linarith [h]⟩
+
+theorem involutive_complexInvo : Involutive (complexInvo k) := by
+  unfold Involutive
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Zagier.lean:186]:
```suggestion
```

File: Mathlib/NumberTheory/Zagier.lean [hunk 6]
```diff
@@ -0,0 +1,278 @@
...
+instance : Fintype (zagierSet k) := by
+  rw [← coe_zagierFinset]
+  infer_instance
+
+end Defs
+
+section Key
+
+variable {α : Type*} [Fintype α] [DecidableEq α] {p : ℕ} [hp : Fact p.Prime]
+  (f : Function.End α) (hf : f^[p] = id)
```
Comment (tb65536) [inline Mathlib/NumberTheory/Zagier.lean:75]: I wonder if you could view `f` as living in the group of units of `Function.End α`? Then you could use `zpowers` rather than `powers`.

File: Mathlib/NumberTheory/Zagier.lean [hunk 7]
```diff
@@ -0,0 +1,278 @@
...
+    · rw [(involutive_complexInvo k).iterate_odd hodd] at h
+      rw [← h]
+      unfold complexInvo
+      simp
+  · intro t mem
+    replace mem := unique k mem
+    unfold zagierSet at t
+    congr!
+
+theorem positive_of_odd {n : ℕ} (h : n % 2 = 1) : 0 < n := by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Zagier.lean:255]: there is already `Odd.pos`

File: Mathlib/NumberTheory/Zagier.lean [hunk 8]
```diff
@@ -0,0 +1,278 @@
...
+  by_contra j; push_neg at j; rw [nonpos_iff_eq_zero] at j; subst j; norm_num at h
+
+theorem result : ∃ a b : ℕ, a ^ 2 + b ^ 2 = 4 * k + 1 := by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Zagier.lean:258]: There is no namespacing, so this result will just be in the global namespace called `result`. Please give it a descriptive name and namespace it also (and maybe also make it `protected` if its name overlaps too much).
Similar with other results

File: Mathlib/NumberTheory/Zagier.lean [hunk 9]
```diff
@@ -0,0 +1,278 @@
...
+  simp_rw [zagierSet, Set.mem_setOf_eq] at h
+  refine' ⟨_, _, _⟩ <;> nlinarith
+
+/-- The set of all triples of natural numbers `(x, y, z) ∈ (0, k + 1] × (0, k] × (0, k]` satisfying
+`x * x + 4 * y * z = 4 * k + 1`, as a `Finset`. This is shown to be equivalent to `zagierSet`. -/
+def zagierFinset : Finset (ℕ × ℕ × ℕ) :=
+  ((Ioc 0 (k + 1)).product ((Ioc 0 k).product (Ioc 0 k))).filter
+    (fun ⟨x, y, z⟩ => x * x + 4 * y * z = 4 * k + 1)
+
+theorem coe_zagierFinset : ↑(zagierFinset k) = zagierSet k := by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Zagier.lean:52]:
```suggestion
theorem coe_zagierFinset : (zagierFinset k : Set ℕ) = zagierSet k := by
```
generally we try to avoid putting unspecified coe arrows in the code, as things can sometimes change. Putting an explicit type ascription is much clearer

File: Mathlib/NumberTheory/Zagier.lean [hunk 10]
```diff
@@ -0,0 +1,278 @@
...
+
+section Key
+
+variable {α : Type*} [Fintype α] [DecidableEq α] {p : ℕ} [hp : Fact p.Prime]
+  (f : Function.End α) (hf : f^[p] = id)
+
+open Function Submonoid
+
+/-- A shim theorem. -/
+theorem pow_eq_iterate (k : ℕ) : f ^ k = f^[k] := by
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Zagier.lean:80]: If you keep this lemma it should surely move to a different file, like the one that defines the monoid structure on `Function.End`. But its also not clear to me why you can't just use `^k` throughout the file and never mention `^[k]`

File: Mathlib/NumberTheory/Zagier.lean [hunk 11]
```diff
@@ -0,0 +1,278 @@
...
+def complexInvo : Function.End (zagierSet k) := fun ⟨⟨x, y, z⟩, h⟩ =>
+  ⟨if x + z < y then ⟨x + 2 * z, z, y - x - z⟩ else
+   if 2 * y < x then ⟨x - 2 * y, x + z - y, y⟩ else
+                     ⟨2 * y - x, y, x + z - y⟩, by
+  unfold zagierSet at *
+  simp at h
+  split_ifs with less more <;> simp
+  · rw [Nat.sub_sub]
+    zify [less.le] at h ⊢
+    ring_nf
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Zagier.lean:169]:
```suggestion
```
these shouldn't really be needed, linarith won't care exactly what order the terms are in

File: Mathlib/NumberTheory/Zagier.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/NumberTheory/Zagier.lean]: I'm not entirely sure about how to effect this. I've added `instGroupOfPowers` in `GroupTheory.Submonoid.Membership`, but it has to be low-priority otherwise `fintypeOfKerOfCodom` in `GroupTheory.QuotientGroup` fails. And what about `isPGroup_of_powers` in the new file?

File: Mathlib/NumberTheory/Zagier.lean (hunk 10 above)
Comment (Parcly-Taxel) [reply Mathlib/NumberTheory/Zagier.lean]: Then I have to add things like
```lean
have h1 : id = (1 : Function.End (zagierSet k)) := by rfl
rw [show _ ∘ _ = _ * complexInvo k by rfl, ← sq] at hi
```

File: Mathlib/NumberTheory/Zagier.lean (hunk 6 above)
Comment (Parcly-Taxel) [reply Mathlib/NumberTheory/Zagier.lean]: Then I would have to define `obvInvo` and `complexInvo` with type `(Function.End (zagierSet k))ˣ`, hence _immediately_ show that they are their own inverses – and I don't need inverses for the proof. Furthermore I need `f ^ p = 1` for `isPGroup_of_powers`, not that `f` is its own inverse (which is the same as `f ^ p = 1` only when `p = 2`).

Comment (tb65536) [reply Mathlib/NumberTheory/Zagier.lean]: Another option would be to write a definition that takes `f ^ p = id` and produces an `equiv`.

**Comment by tb65536** [comment]
Here's a nice golf using `Function.fixedPoints` that avoids `powers`: https://github.com/leanprover-community/mathlib4/compare/zagier...zagier_golf

**Comment by Parcly-Taxel** [comment]
> Here's a nice golf using `Function.fixedPoints` that avoids `powers`: [zagier...zagier_golf](https://github.com/leanprover-community/mathlib4/compare/zagier...zagier_golf)

What a fantastic golf.

File: Mathlib/NumberTheory/Zagier.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/NumberTheory/Zagier.lean]: Now that the group construction is no longer needed here it's been moved to #6648.

File: Mathlib/NumberTheory/Zagier.lean [hunk 12]
```diff
@@ -0,0 +1,194 @@
...
+
+/-- **Fermat's theorem on sums of two squares** (Wiedijk #20).
+Every prime congruent to 1 mod 4 is the sum of two squares, proved using Zagier's involutions. -/
+theorem Nat.Prime.sq_add_sq' {p : ℕ} [Fact p.Prime] (hp : p % 4 = 1) :
+    ∃ a b : ℕ, a ^ 2 + b ^ 2 = p := by
+  have md := div_add_mod p 4
+  rw [hp] at md
+  have := @Zagier.exists_sq_add_sq (p / 4) (by rw [md]; infer_instance)
+  rw [md] at this
+  assumption
```
Comment (tb65536) [inline Mathlib/NumberTheory/Zagier.lean:194]:
```suggestion
theorem Nat.Prime.sq_add_sq' {p : ℕ} [h : Fact p.Prime] (hp : p % 4 = 1) :
    ∃ a b : ℕ, a ^ 2 + b ^ 2 = p := by
  rw [←div_add_mod p 4, hp] at h ⊢
  apply Zagier.exists_sq_add_sq
```

File: Mathlib/NumberTheory/Zagier.lean [hunk 13]
```diff
@@ -0,0 +1,194 @@
...
+
+theorem exists_sq_add_sq : ∃ a b : ℕ, a ^ 2 + b ^ 2 = 4 * k + 1 := by
+  apply sq_add_sq_of_nonempty_fixedPoints
+  have := (card_modEq_card_fixedPoints_of_sq (obvInvo k) (obvInvo_sq k)).symm.trans
+    (card_modEq_card_fixedPoints_of_sq (complexInvo k) (complexInvo_sq k))
+  simp_rw [fixedPoints_eq_singleton, Nat.ModEq] at this
+  norm_num at this; rw [← Nat.odd_iff] at this
+  replace this := Odd.pos this
+  rw [← Set.toFinset_card, Finset.card_pos, Set.toFinset_nonempty] at this
+  assumption
```
Comment (tb65536) [inline Mathlib/NumberTheory/Zagier.lean:180]:
```suggestion
  contrapose! this
  rw [Set.not_nonempty_iff_eq_empty] at this
  simp_rw [this, Fintype.card_of_isEmpty, fixedPoints_eq_singleton, Fintype.card_ofSubsingleton]
```

File: Mathlib/NumberTheory/Zagier.lean [hunk 14]
```diff
@@ -0,0 +1,189 @@
...
+  · unfold zagierFinset at h; unfold zagierSet; simp_all
+  · unfold zagierSet at h; unfold zagierFinset; simp_all
+    have lb := zagierSet_lower_bound k h
+    have ub := zagierSet_upper_bound k h
+    apply mem_product.2; simp
+    constructor; · exact ⟨lb.1, ub.1⟩
+    apply mem_product.2; simp
+    exact ⟨⟨lb.2.1, ub.2.1⟩, ⟨lb.2.2, ub.2.2⟩⟩
+
+instance : Fintype (zagierSet k) := by rw [← coe_zagierFinset]; infer_instance
```
Comment (tb65536) [inline Mathlib/NumberTheory/Zagier.lean:66]:
```suggestion
lemma zagierSet_subset : zagierSet k ⊆ Ioc 0 (k + 1) ×ˢ Ioc 0 k ×ˢ Ioc 0 k := by
  intro x h
  have lb := zagierSet_lower_bound k h
  have ub := zagierSet_upper_bound k h
  exact ⟨⟨lb.1, ub.1⟩, ⟨lb.2.1, ub.2.1⟩, ⟨lb.2.2, ub.2.2⟩⟩

noncomputable instance : Fintype (zagierSet k) :=
  (((finite_Ioc 0 (k + 1)).prod
    ((finite_Ioc 0 k).prod (finite_Ioc 0 k))).subset (zagierSet_subset k)).fintype
```

Comment (Parcly-Taxel) [reply Mathlib/NumberTheory/Zagier.lean]: Done, with a change from `open Finset` to `open Set` (otherwise `Ioc` causes errors due to `Set.Ioc` being required and not `Finset.Ioc`).

Comment (tb65536) [reply Mathlib/NumberTheory/Zagier.lean]: Oh, yes, I forgot about that change.

**Comment by ocfnash** [comment]
This is very nice but I suggest it would be be better placed in the archive folder, since we already have the result.

**Comment by Parcly-Taxel** [comment]
> This is very nice but I suggest it would be be better placed in the archive folder, since we already have the result.

Done.

File: Archive/ZagierTwoSquares.lean [hunk 15]
```diff
@@ -0,0 +1,183 @@
...
+    rw [tsub_eq_iff_eq_add_of_le more, ← two_mul] at mem
+    replace mem := (mul_left_cancel₀ two_ne_zero mem).symm
+    subst mem
+    rw [show x * x + 4 * x * z = x * (x + 4 * z) by linarith] at h
+    cases' (Nat.dvd_prime hk.out).1 (dvd_of_mul_left_eq _ h) with e e
+    · rw [e, mul_one] at h; subst h; simp_all [show z = 0 by linarith [e]]
+    · rw [e, mul_left_eq_self₀] at h; simp_all; linarith [e]
+
+theorem fixedPoints_eq_singleton :
+    fixedPoints (complexInvo k) = {⟨(1, 1, k), (by unfold zagierSet; simp; linarith)⟩} := by
```
Comment (mcdoll) [inline Archive/ZagierTwoSquares.lean:158]: I think the RHS should have its own definition, using `simp` and `linarith` in the statement of a theorem looks not great.

**Review by mcdoll — COMMENTED** [review]
Could you please squeeze all of your nonterminal simps and add a bit more documentation in the proofs?

File: Archive/ZagierTwoSquares.lean (hunk 15 above)
Comment (Parcly-Taxel) [reply Archive/ZagierTwoSquares.lean]: All done (including squeezing nonterminal simps and documentation).

File: Archive/ZagierTwoSquares.lean [hunk 16]
```diff
@@ -0,0 +1,214 @@
...
+
+variable {α : Type*} [Fintype α] [DecidableEq α] (f : Function.End α)
+
+noncomputable instance : Fintype (fixedPoints f) := Fintype.ofFinite _
+
+/-- The number of fixed points of an involution over a finite set and that set's cardinality
+have the same parity. This is the `p = 2` case of `card_modEq_card_fixedPoints` in
+`Mathlib.GroupTheory.PGroup`, but proved independently. -/
+theorem card_modEq_card_fixedPoints_of_sq (hf : f ^ 2 = 1) :
+    Fintype.card α ≡ Fintype.card (fixedPoints f) [MOD 2] := by
```
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Archive/ZagierTwoSquares.lean:85]: Where is an appropriate place for this theorem and `noncomputable instance : Fintype (fixedPoints f) := Fintype.ofFinite _`? In `GroupTheory.Perm.Cycle.Type`, `GroupTheory.PGroup` or what?

[the remark this answers is not in the document]
Comment (tb65536) [reply Archive/ZagierTwoSquares.lean:85]: The theorem should go in `GroupTheory.Perm.Cycle.Type`, I think. The instance could go earlier. And you might be able to make the instance computable if you add some sort of decidability hypothesis (maybe `DecidableEq α`?).

[the remark this answers is not in the document]
Comment (tb65536) [reply Archive/ZagierTwoSquares.lean:85]: In fact, you might not need the instance at all. Try deleting it?

[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Archive/ZagierTwoSquares.lean:85]: I don't know how to prove the sorry below:
```lean
theorem card_modEq_card_fixedPoints_of_pow_prime [DecidableEq α] {f : Function.End α} {p n : ℕ}
    [hp : Fact p.Prime] (hf : f ^ p ^ n = 1) :
    Fintype.card α ≡ Fintype.card f.fixedPoints [MOD p] := by
  let σ : α ≃ α := ⟨f, f ^ (p ^ n - 1),
  by
    simp_rw [Function.LeftInverse, ← Function.comp_apply (g := f),
      show (f ^ (p ^ n - 1)) ∘ f = f ^ (p ^ n - 1) * f by rfl, ← pow_succ',
      Nat.sub_add_cancel (pow_pos hp.out.pos n)]
    exact congrFun hf,
  by
    simp_rw [Function.RightInverse, Function.LeftInverse, ← Function.comp_apply (f := f),
      show f ∘ (f ^ (p ^ n - 1)) = f * f ^ (p ^ n - 1) by rfl, ← pow_succ,
      Nat.sub_add_cancel (pow_pos hp.out.pos n)]
    exact congrFun hf⟩
  have hσ : σ ^ p ^ n = 1 := by
    sorry
  suffices : Fintype.card f.fixedPoints = (support σ)ᶜ.card
  · exact this ▸ (card_compl_support_modEq hσ).symm
  suffices : f.fixedPoints = (support σ)ᶜ
  · simp only [this]; apply Fintype.card_coe
  simp [Set.ext_iff, Function.IsFixedPt]
```

[the remark this answers is not in the document]
Comment (tb65536) [reply Archive/ZagierTwoSquares.lean:85]:
```
  let σ : α ≃ α := ⟨f, f ^ (p ^ k - 1),
    leftInverse_iff_comp.mpr ((pow_sub_mul_pow f (Nat.one_le_pow k p hp.out.pos)).trans hf),
    leftInverse_iff_comp.mpr ((pow_mul_pow_sub f (Nat.one_le_pow k p hp.out.pos)).trans hf)⟩
  have hσ : σ ^ p ^ k = 1
  · rw [FunLike.ext'_iff, Equiv.Perm.coe_pow]
    exact (hom_coe_pow (fun g : Function.End α ↦ g) rfl (fun g h ↦ rfl) f (p ^ k)).symm.trans hf
  suffices : Fintype.card (fixedPoints f) = Finset.card (Equiv.Perm.support σ)ᶜ
  · exact this ▸ (Equiv.Perm.card_compl_support_modEq hσ).symm
  suffices : fixedPoints f = (Equiv.Perm.support σ)ᶜ
  · simp only [this]
    apply Fintype.card_coe
  simp [Set.ext_iff, IsFixedPt]
```

[the remark this answers is not in the document]
Comment (tb65536) [reply Archive/ZagierTwoSquares.lean:85]: However, a less hacky way might be to override `npow` in https://leanprover-community.github.io/mathlib_docs/group_theory/group_action/defs.html#function.End.monoid

[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Archive/ZagierTwoSquares.lean]: I've added the function to mathlib as `card_fixedPoints_modEq`. Feel free to make any simplifications yourself.

[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Archive/ZagierTwoSquares.lean]: I don't see how adding attributes to `instMonoidEnd` as follows:
```lean
instance : Monoid (Function.End α) where
  one := id
  mul := (· ∘ ·)
  mul_assoc f g h := rfl
  mul_one f := rfl
  one_mul f := rfl
  npow n f := f^[n]
  npow_zero _ := rfl
  npow_succ _ _ := by simp only [Function.iterate_succ']; rfl
```
helps.

**Comment by ocfnash** [comment]
The naming in `Archive/ZagierTwoSquares` is not what we would use in Mathlib proper (it's semantic rather than based on type) but as this is going in the archive, I think we can leave it as it is.

Thanks!

bors merge
